US09303033B2
Synthesis of tert-butyl 5-chloro-3-formyl-2-methylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate
To 5-chloro-7-(cyclopropylamino)-2-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde (1.7 g, 6.7 mmol) in methylene chloride (13 mL) was added triethylamine (1.1 mL, 8 mmol), dimethylaminopyridine (100 mg, 0.8 mmol), and di-t-butyldicarbonate (1.8 g, 8 mmol). The mixture was stirred at room temperature for 10 hours. The reaction mixture was transferred to a separatory funnel, washed 1× with H2O, 2× with brine, dried over MgSO4, filtered, and evaporated to dryness to provide an oily residue which solidified on standing. The product, tert-butyl 5-chloro-3-formyl-2-methylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate, was recovered as an off-white solid in 82% yield (1.9 g). LCMS (M+1=351)

reactant | 5-chloro-7-(cyclopropylamino)-2-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 6.7 mmol, 1.7 g | ClC1=NC=2N(C(=C1)NC1CC1)N=C(C2C=O)C | C11H11ClN4O
reactant | triethylamine | 8 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.8 mmol, 100 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyldicarbonate | 8 mmol, 1.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-chloro-3-formyl-2-methylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 82% yield | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=C(C2C=O)C | C16H19ClN4O3
